US20010027196A1
2-Amino-4-(3,4-dihydro-1H-isoquinolin-2-yl)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 1,2,3,4-tetrahydroisoquinoline in DME. ES-MS m/e (%): 318 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3,4-dihydro-1H-isoquinolin-2-yl)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C#N)C=1OC=CC1 | C18H15N5O
